US05811459
5-{4-[2(2-Benzyloxyphenyl)ethenyl]phenyl}tetrazole
A mixture of 4-[2-(2-benzyloxyphenyl)ethenyl]-benzonitrile as a mixture of isomers (7.88 g) and tri-n-butyltin azide (20.03 ml, 2.53M solution in toluene) in toluene 100 ml was heated at reflux for 66 hours. The mixture was cooled (ice bath) and added dropwise to excess sodium nitrite and stirred for 30 minutes. Sulphamic acid (9 g) was added and the mixture left to stand at 5° C. for 18 hours. The resulting yellow precipitate (9.7 g) was filtered off, dried and mixed with potassium carbonate (7.56 g) in DMF (20 ml) and stirred for 10 minutes. Pivaloyloxymethyl chloride (4.78 ml) was added to the mixture and it was stirred for 18 hours, diluted with ethyl acetate (200 ml), and washed with 1M HCl (100 ml), sodium bicarbonate (100 ml) and brine (100 ml), dried (magnesium sulphate), filtered and evaporated. The residue was purified by subjecting to chromatography on silica gel using methanol : dichloromethane (0:100 to 30:70 gradient) as eluant. There was thus obtained N-2-(pivaloyloxymethyl)-5-{-4-[2-(2-benzyloxyphenyl)ethenyl]-phenyl}tetrazole (7.64 g) and N-1-(pivaloyloxymethyl)-5-{-4-[2-(2-benzyloxyphenyl)ethenyl]-phenyl}tetrazole (1.67 g).

reactant | 4-[2-(2-benzyloxyphenyl)ethenyl]-benzonitrile | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC=C(C#N)C=C1 | C22H17NO
reactant | tri-n-butyltin azide | 2.53M, 20.03 ml | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | Sulphamic acid | 9 g | S(N)(O)(=O)=O | H3NO3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-[2(2-Benzyloxyphenyl)ethenyl]phenyl}tetrazole | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=CC1=CC=C(C=C1)C1=NN=NN1 | C22H18N4O
